US07989622B2
3-Amino-N-(3-(3-amino-5-methoxyphenylamino)quinoxalin-2-yl)benzenesulfonamide (330 mg, 0.76 mmol), DMF (4 mL), N,N,-Dimethylglycine (312 mg, 3.02 mmol), HATU (1.15 g, 3.02 mmol), and 1.29 (mL) (7.56 mmol) DIEA (1.29 mL, 7.56 mmol) were combined and heated to 90° C., followed by heating at 50° C. for over 16 hours. The reaction was allowed to cool, placed into a sep. funnel diluted with water and aqueous LiCl and extracted with EtOAc. The final compound was then purified by prep. HPLC to give 2-(dimethylamino)-N-(3-(N-(3-(3-(2-(dimethylamino)acetamido)-5-methoxy-phenylamino)-quinoxalin-2-yl)sulfamoyl)phenyl)acetamide. 1H NMR (400 MHz, CD3OD) δ 8.45 (t, 1H), 7.93 (t, 1H), 7.85-7.88 (m, 1H), 7.70-7.74 (m, 1H), 7.65-7.68 (m, 1H), 7.58-7.62 (m, 1H), 7.58 (t, 1H), 7.34-7.42 (m, 3H), 7.0 (t, 1H), 4.05 (d, 2H), 3.8 (s, 3H), 2.9-3.0 (d, 12H). MS (EI) m/z for C29H34N8O5S: 607.2 (MH+).

reactant | 3-Amino-N-(3-(3-amino-5-methoxyphenylamino)quinoxalin-2-yl)benzenesulfonamide | 0.76 mmol, 330 mg | NC=1C=C(C=CC1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=CC(=CC(=C1)OC)N | C21H20N6O3S
reactant | N,N,-Dimethylglycine | 3.02 mmol, 312 mg | CN(CC(=O)O)C | C4H9NO2
reactant | HATU | 3.02 mmol, 1.15 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 7.56 mmol, 1.29 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
solvent | LiCl | [Li+].[Cl-]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(dimethylamino)-N-(3-(N-(3-(3-(2-(dimethylamino)acetamido)-5-methoxy-phenylamino)-quinoxalin-2-yl)sulfamoyl)phenyl)acetamide | CN(CC(=O)NC1=CC(=CC=C1)S(NC1=NC2=CC=CC=C2N=C1NC1=CC(=CC(=C1)OC)NC(CN(C)C)=O)(=O)=O)C | C29H34N8O5S
